US07884121B2
To the cooled solution of N-ethyl-N-methyl-1H-imidazole-1-carboxamide (22.2 g, 145.25 mmol) in acetonitrile (40 mL) was charged slowly with methyl iodide (22.3 g, 157.4 mmol) while keeping internal temperature below 10° C. The reaction mixture was stirred at 20-25° C. for 2-3 hours and then it was evaporated under vacuum to yield 1-[[N-ethyl-(N-methyl)amino]carbonyl]-3-methyl-1H-imidazolium iodide. 1H NMR (CDCl3) δ 10.23 (s, 1H); 7.75 (s, 1H); 7.66 (s, 1H); 4.29 (s, 3H); 3.59 (q, J=7.2 Hz, 2H), 3.30 (s, 3H), 1.32 (t, J=7.2 Hz, 3H).

reactant | N-ethyl-N-methyl-1H-imidazole-1-carboxamide | 145.25 mmol, 22.2 g | C(C)N(C(=O)N1C=NC=C1)C | C7H11N3O
reactant | methyl iodide | 157.4 mmol, 22.3 g | CI | CH3I
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-[[N-ethyl-(N-methyl)amino]carbonyl]-3-methyl-1H-imidazolium iodide | [I-].C(C)N(C)C(=O)[NH+]1CN(C=C1)C | InChI=1S/C8H15N3O.HI/c1-4-10(3)8(12)11-6-5-9(2)7-11;/h5-6H,4,7H2,1-3H3;1H
